US05644028
To a solution of 5.00 g (17.4 mmol) of Boc-Thz-NH-tBu in 23.7 ml of acetonitrile-dichloromethane (1:6), 3.39 ml (52.1 mmol) of methanesulfonic acid was added. After stirring at room temperature for 1.5 h, 30 ml of dichloromethane and 26 ml (52 mmol) of 2N NaOH aqueous solution were added under ice cooling to extract the product. The organic layer was washed with 5% NaHCO3 aqueous solution and saturated NaCl aqueous solution successively, dried over Na2SO4, and evaporated under reduced pressure. The residue was triturated in 50 ml of hexane to give 2.86 g (Y. 88%) of H-Thz-NH-tBu which was converted to Qoa-Mta-AHPBA-Thz-NH-tBu by a similar method with processes 3-5 of Example 3.

reactant | Boc-Thz-NH-tBu | 17.4 mmol, 5.00 g | N1([C@H](C(=O)NC(C)(C)C)CSC1)C(=O)OC(C)(C)C | C13H24N2O3S
reactant | methanesulfonic acid | 52.1 mmol, 3.39 ml | CS(=O)(=O)O | CH4O3S
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | NaOH | 52 mmol, 2N, 26 ml | [OH-].[Na+]
solvent | acetonitrile dichloromethane | 23.7 ml | C(C)#N.ClCCl
product | H-Thz-NH-tBu | 2.86 g, 88% | N1[C@H](C(=O)NC(C)(C)C)CSC1 | C8H16N2OS
